US09278973B2
A mixture of 5-benzyl-2H-1,2,4-triazol-3-amine (174 mg, 1.00 mmol, 1.00 equiv), acetic acid (3 mL), and ethyl 3-(4-methoxyphenyl)-3-oxopropanoate (228 mg, 1.10 mmol, 1.10 equiv) was stirred overnight at 110° C. and then concentrated to dryness. The resulting solid was washed with 5 mL MeOH and collected by filtration. The solid was dissolved in 10 mL of NH4OH (aq.) and filtered. The filtrate was adjusted to pH 6 with HOAc. The resulting solid was collected by filtration and washed with water. The solid was dried to get 26 mg (8%) of 2-benzyl-5-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a white solid.

reactant | 5-benzyl-2H-1,2,4-triazol-3-amine | 1.00 mmol, 174 mg, 1.00 equiv | C(C1=CC=CC=C1)C=1N=C(NN1)N | C9H10N4
reactant | ethyl 3-(4-methoxyphenyl)-3-oxopropanoate | 1.10 mmol, 228 mg, 1.10 equiv | COC1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O4
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 2-benzyl-5-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 26 mg, 8% | C(C1=CC=CC=C1)C1=NN2C(NC(=CC2=O)C2=CC=C(C=C2)OC)=N1 | C19H16N4O2
